US04780528
Triethylamine (1.4 ml) was added to a suspension of D-alanine isopropyl ester hydrochloride (1.7 g) in 50 ml of chloroform. To the resulting solution was admixed Z-Asp(OBzl) (3.6 g), a solution of 2.06 g DCC in 10 ml chloroform was added under ice cooling, and the mixture was stirred under ice cooling for one hour and then at room temperature overnight. Precipitated dicyclohexylurea was filtered off, the filtrate was concentrated under reduced pressure, and the residue was dissolved in 150 ml of ethyl acetate. This solution was washed with 2N-HCl, water, 4% aqueous solution of sodium bicarbonate, water and saturated aqueous solution of sodium chloride in that order, and dried over anhydrous sodium sulfate. After filtering off the drying agent, the filtrate was concentrated under reduced pressure. The residue was dissolved in 100 ml of 80% acetic acid, and the solution was subjected to catalytic reduction under a hydrogen gas stream at room temperature for four hours using palladium-carbon as catalyst. After filtering off the catalyst, the filtrate was concentrated under reduced pressure, and the residue was recrystallized from water, giving 1.8 g of D-alanyl-α-L-aspartyl-D-alanine isopropyl ester.

reactant | Triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | D-alanine isopropyl ester hydrochloride | 1.7 g | Cl.C(C)(C)OC([C@H](N)C)=O
reactant | Z-Asp(OBzl) | 3.6 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H19NO6
reactant | DCC | 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | D-alanyl-α-L-aspartyl-D-alanine isopropyl ester | 1.8 g | C(C)(C)OC([C@H](NC([C@@H](NC([C@H](N)C)=O)CC(O)=O)=O)C)=O | C13H23N3O6
